US09382238B2
To a solution of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (1 g, 2.431 mmol) and 4-amino-2-(trifluoromethyl)benzonitrile (0.452 g, 2.431 mmol) in pyridine (3.93 mL, 48.6 mmol) was added T3P® (4.64 g, 7.29 mmol) slowly. The mixture was stirred at rt for 0.5 h. The reaction was quenched with H2O (10 mL) and extracted with DCM (20 mL×5). The combined organic extracts were dried, filtered, and concentrated. Purification by column chromatography (PE/EA=511, Rf=0.6) provided N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (870 mg, 1.351 mmol, 55.6% yield). 1H NMR (400 MHz, CDCl3-d): δ 8.02 (s, 1H), 7.98 (s, 1H), 7.77 (d, J=8.8 Hz, 1H), 7.41 (d, J=8.4 Hz, 2H), 7.30-7.45 (m, 5H), 6.93 (d, J=8 Hz, 2H), 6.33 (s, 1H), 5.33 (d, J=8 Hz, 2H), 4.09 (q, J=6.8 Hz, 2H), 3.83 (s, 5H), 1.41 (t, J=6.8 Hz, 3H); LCMS (m/z): 580.0 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 2.431 mmol, 1 g | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 4-amino-2-(trifluoromethyl)benzonitrile | 2.431 mmol, 0.452 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | pyridine | 48.6 mmol, 3.93 mL | N1=CC=CC=C1 | C5H5N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
product | N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 1.351 mmol, 870 mg, 55.6% yield | C(#N)C1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=CC1OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H25F4N3O4
